US09278910B2
To a stirring suspension of (4-bromophenyl)hydrazine hydrochloride (3.28 g, 14.7 mmol) in EtOH (25 mL) was added concentrated HCl (0.147 mL, 1.47 mmol) and 1,1,3,3-tetraethoxypropane (3.87 mL, 16.1 mmol). The reaction mixture was heated at reflux for 2 h then cooled to room temperature. The reaction mixture was poured onto water (150 mL) and hexanes (20 mL) and stirred for 1 h. A brown precipitate was collected by filtration and washed with water (2×10 mL) and hexanes (10 mL). The resultant solid was dried in air then washed with toluene (10 mL) to afford 2 g (61%) of 1-(4-bromophenyl)-1H-pyrazole INT-84 as a light brown powder. LCMS-ESI (m/z) calculated for C9H7BrN2: 223; found 223/225 [M+H]+, tR=2.14 min (Method 10).

reactant | (4-bromophenyl)hydrazine hydrochloride | 14.7 mmol, 3.28 g | Cl.BrC1=CC=C(C=C1)NN
reactant | HCl | 1.47 mmol, 0.147 mL | Cl | ClH
reactant | 1,1,3,3-tetraethoxypropane | 16.1 mmol, 3.87 mL | C(C)OC(CC(OCC)OCC)OCC | C11H24O4
solvent | EtOH | 25 mL | CCO | C2H6O
product | 1-(4-bromophenyl)-1H-pyrazole | 2 g, 61% | BrC1=CC=C(C=C1)N1N=CC=C1 | C9H7BrN2
